US05674856
106(a) 3'-O-Triisopropylsilyl-5'-O-(4,4'-dimethoxytrityl)thymidine
1.485 g (2.73 mmol) of 5'-O-(4,4'-dimethoxytrityl)thymidine and 0.37 g (5.45 mmol) of imidazole were first dried by azeotropic distillation under reduced pressure with pyridine and then dissolved in 6 ml of dimethylformamide. 875 μl (4.09 mmol) of triisopropylsilyl chloride were added to this solution, and the resulting mixture was stirred overnight at room temperature. At the end of this time, 875 μl of triisopropylsilyl chloride and 0.37 g of imisazole were added to the mixture, which was then stirred for one day. The reaction mixture was then diluted with 100 ml of ethyl acetate and the diluted mixture was washed twice, each time with 100 ml of a 5% w/v aqueous solution of sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate and the solvent was removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through 100 g of silica gel (70-230 mesh), using methylene chloride containing from 0 to 3% by volume of methanol as the eluent, to give 1.861 g (yield 97%) of the title compound.

reactant | 5'-O-(4,4'-dimethoxytrityl)thymidine | 2.73 mmol, 1.485 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)NC(=O)C(C)=C2)O)C=C1 | C31H32N2O7
reactant | imidazole | 5.45 mmol, 0.37 g | N1C=NC=C1 | C3H4N2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | triisopropylsilyl chloride | 4.09 mmol, 875 μl | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | triisopropylsilyl chloride | 875 μl | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3'-O-Triisopropylsilyl-5'-O-(4,4'-dimethoxytrityl)thymidine | 1.861 g, yield 97% | C(C)(C)[Si](O[C@H]1C[C@@H](O[C@@H]1COC(C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=CC=C1)N1C(=O)NC(=O)C(C)=C1)(C(C)C)C(C)C | C40H52N2O7Si
